US04450164
8-Benzyloxy-3-cyanomethyl-2-methylimidazo[1,2-a]pyridine
A solution of 0.86 g. of 3-chloro-4-oxopentanonitrile, 0.92 g. of 2-amino-3-phenylmethoxypyridine and 0.5 ml. of triethylamine in 15 ml. of ethanol was stirred for 16 hours, then concentrated to remove the triethylamine and ethanol. The residue was dissolved in methylene chlorideand washed with water. The methylene chloride was concentrated and the residual oil was dissolved in 20 ml. of boiling acetonitrile, filtered, cooled, and treated with hydrogen chloride/methanol with cooling to give 0.22 g. of the desired product (m.p. 163°-166° C.).

reactant | 3-chloro-4-oxopentanonitrile | ClC(CC#N)C(C)=O | C5H6ClNO
reactant | 2-amino-3-phenylmethoxypyridine | NC1=NC=CC=C1OCC1=CC=CC=C1 | C12H12N2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 8-Benzyloxy-3-cyanomethyl-2-methylimidazo[1,2-a]pyridine | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=C(N2)C)CC#N | C17H15N3O
